Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting blood
 
Major Surgical or Invasive Procedure:
EGD on ___
 
History of Present Illness:
Mr. ___ is a ___ male with a history of daily
alcohol use (2.5 beers reported) and leukemia in ___ who
presents with hematemesis.

The patient reports the sudden onset of 3 episodes in a row of
bloody emesis at around 9 AM on ___. He ate a normal breakfast
without anything seeming abnormal prior to this. The night 
before
was uneventful, and he has been feeling well up to this point. 
He
continued to feel nauseous throughout the day with some 
abdominal
discomfort and had further episodes of emesis later in the day.
Sometimes there was material which looked like coffee grounds
which he attributed to the rice he ate for breakfast. He felt
dizzy with standing but denied chest pain, shortness of breath,
or fevers. He has had no black or bloody stools. No known 
history
of liver disease, no chronic NSAID use, and no recent steroids.
Patient states that he had an episode of vomiting blood
approximately a week and a half ago that self resolved and he 
did
not have any workup for it at that time. Patient states that he
fell earlier this morning and bumped his head but denies any 
loss
of consciousness or headache now. No focal numbness or weakness.
No history of previous abdominal surgeries. No history of IV 
drug
use. No history of alcohol withdrawal for him. He had ___ bouts
of bloody vomitus in the emergency department approximately 100
cc total.

In the ED he was tachycardic but normotensive. Hgb was 13.3. WBC
12.5. BUN 18. GI was consulted in the ED and is considering EGD
___

ROS: A 10-point review of systems was obtained and was otherwise
negative except as per HPI
 
Past Medical History:
- Reports history of Leukemia in ___ treated in ___ and
in remission
 
Social History:
___
Family History:
Osteoporosis. No known GI cancers
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: Afebrile, tachycardic at 107
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT:  Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric,
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
=================

___ 07:25PM BLOOD WBC-12.5* RBC-4.30* Hgb-13.3* Hct-38.5* 
MCV-90 MCH-30.9 MCHC-34.5 RDW-12.0 RDWSD-39.1 Plt ___
___ 07:25PM BLOOD Neuts-89.0* Lymphs-3.9* Monos-6.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.13* AbsLymp-0.49* 
AbsMono-0.78 AbsEos-0.00* AbsBaso-0.03
___ 07:25PM BLOOD ___ PTT-25.1 ___
___ 07:25PM BLOOD Glucose-173* UreaN-18 Creat-0.9 Na-141 
K-4.1 Cl-96 HCO3-27 AnGap-18
___ 07:25PM BLOOD ALT-22 AST-38 AlkPhos-72 TotBili-0.6
___ 07:25PM BLOOD Albumin-3.9
___ 07:57PM BLOOD Lactate-3.5*
___ 11:09PM BLOOD Lactate-1.9

MICRO:
=======
-___ BCx: NGTD

IMAGING:
========
-___ RUQ US: Echogenic liver consistent with steatosis. Other
forms of liver disease and more advanced liver disease including
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot
be excluded on this study. 

-___ CXR: No acute cardiopulmonary process.  No free
intraperitoneal air.

PROCEDURES:
===========
___ EGD:

Findings:
--Esophagus: Excavated Lesions A ___ tear with 
stigmata of recent bleeding was seen in the GEJ. 
--Stomach: Normal stomach.
--Duodenum: Mucosa: Patchy erythema of the mucosa with no 
bleeding was noted in the duodenal bulb compatible with 
duodenitis. 
--Other findings: No fresh or retained blood visualized 

Impression: 
Erythema in the duodenal bulb compatible with duodenitis
No fresh or retained blood visualized
___ tear

DISCHARGE LABS:

================
Otherwise normal EGD to third part of the duodenum
___ 01:00PM BLOOD WBC-5.8 RBC-3.61* Hgb-11.2* Hct-32.6* 
MCV-90 MCH-31.0 MCHC-34.4 RDW-12.0 RDWSD-39.9 Plt ___
___ 08:15AM BLOOD WBC-5.7 RBC-3.37* Hgb-10.5* Hct-30.0* 
MCV-89 MCH-31.2 MCHC-35.0 RDW-12.0 RDWSD-38.5 Plt Ct-93*
___ 08:15AM BLOOD Glucose-82 UreaN-8 Creat-0.8 Na-136 K-3.7 
Cl-100 HCO3-26 AnGap-10
___ 08:15AM BLOOD Albumin-3.2* Calcium-7.9* Phos-2.6* 
Mg-1.___ male with a history of daily alcohol use (2.5 40 oz 
beers reported) and leukemia in ___ who presents with 
hematemesis.

#Upper GI bleed ___ ___ tear/duodenitis
EGD done on ___ revealed ___ tear with no active 
bleeding
GI recs: IV PPI for 24 hours, then switch to high dose PO PPI 
BID x4 weeks, then taper per PCP.
No further bleeding or GI symptoms after admission. Tolerating 
PO w/ stable Hgb on day of discharge

#Alcohol use: w/ evidence of liver disease (steatosis, 
thrombocytopenia)
He has never had EtOH withdrawl before, but never been without 
access to EtOH
Counseled alcohol cessation. SW saw him, he said he wants to 
quit drinking, isn't interested in support/alcohol cessation 
programs though, said he'll do it himself
He was monitored on CIWA and showed no signs of withdrawal. 

# Hepatic steatosis
# Thrombocytopenia
both likely due to EtOH
reassuringly: 
no varices on EGD
no coagulopathy to suggest synthetic liver dysfunction

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hematemesis
duodenitis
___ tear 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of vomiting up blood. You had 
an endoscopy which revealed the causes of "duodenitis" which is 
an irritation/inflammation of your duodenum (first part of small 
intestine) and a ___ tear" which is a tear in your 
esophagus related to forceful vomiting. The treatment of this, 
is to take a high dose PPI (proton pump inhibitor-to decrease 
stomach acid) twice a day for at least 4 weeks. You can work 
with your PCP to help determine a taper off process. 

In addition, your duodenitis was likely due to excessive alcohol 
intake. We recommend that you stop drinking alcohol as this can 
lead to further bleeding in your stomach or intestines, liver 
damage/failure/cirrhosis, and death. You were seen by the social 
worker who helped discuss with you your options for ongoing 
treatment and sobriety. We encourage you to use those resources. 

 
Followup Instructions:
___